US06093732
N-(4-Chlorobenzyl)-4-hydroxy-7-(4-hydroxybutyl)-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-7-iodo-3-quinolinecarboxamide from Example No. 39 (0.646 g), 3-butyn-1-ol (0.16 mL), PdCl2 (PPh3)2 (26.0 mg), and 0.93 mL DMF was heated at 90° C. for 1 hr. The reaction mixture was cooled to room temperature and partitioned between EtOAc and H2O. An orange solid precipitated from the organic layer and was filtered and collected to obtain pure product as indicated by NMR. The aqueous layer was washed with EtOAc (3×). The combined organic layers were dried over Na2SO4 and condensed to obtain an orange-brown residue. The residue was adsorbed onto silica and chromatographed eluting with 4% MeOH in CH2Cl2. Fractions homogenous by TLC were combined, condensed, and recrystallized from EtOAc/hexanes to obtain a white solid. The two crops yielded 0.412 g (74%) of the desired product as an orange and white solid. A mixture of the acetylene from above (300 mg) and Pd/C (10%, 60.0 mg) was dissolved in 3:1 CH2Cl2 :MeOH. The reaction mixture was placed under the Parr hydrogenator and monitored with the OAMS for complete reduction of the acetylene. After 1 hr OAMS showed that complete reduction had not been achieved. The old palladium catalyst was replaced with fresh palladium catalyst (60.0 mg) and placed under the Parr hydrogenator for another hour. The reaction was completed in a total of 2 hrs and filtered over celite to remove the palladium. The filtrate was condensed to obtain a yellow solid. The crude product was adsorbed onto silica and chromatographed eluting with 4% MeOH in CH2Cl2. Fractions homogenous by TLC were condensed and recrystallized with EtOAc/hexanes to yield 186.2 mg (61%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-7-iodo-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC(=CC=C3C2O)I)C=C1 | C17H12ClIN2O2
reactant | 3-butyn-1-ol | 0.16 mL | C(CC#C)O | C4H6O
solvent | DMF | 0.93 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-4-hydroxy-7-(4-hydroxybutyl)-3-quinolinecarboxamide | 0.412 g, 74% | ClC1=CC=C(CNC(=O)C=2C=NC3=CC(=CC=C3C2O)CCCCO)C=C1 | C21H21ClN2O3
